US08809256B2
3-butyl-6-methylheptan-2-ol
3-butyl-6-methylheptan-2-one (5.00 g, 27.1 mmol) was dissolved in dry THF (70 ml). The solution was cooled to −15° C., and a suspension of LiAlH4 (3.5M, 2.7 ml, 9.45 mmol) was added over 15 minutes under stirring. After one hour at −15° C., a complete conversion was observed. The grey suspension was warmed to 0° C., and hydrolyzed by slow and successive addition of: water (0.36 g), 15% aqueous NaOH (0.36 g) and water (1.08 g). After warming to room temperature, the white precipitate was filtered, and the solvent removed under vacuum. The crude product was distilled bulb-to-bulb (Kugelrohr, oven 50° C., 0.2 mbar) (yield: 74.5%).

reactant | 3-butyl-6-methylheptan-2-one | 27.1 mmol, 5.00 g | C(CCC)C(C(C)=O)CCC(C)C | C12H24O
reactant | LiAlH4 | 9.45 mmol, 3.5M, 2.7 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | water | 0.36 g | O | H2O
reactant | NaOH | 0.36 g | [OH-].[Na+]
reactant | water | 1.08 g | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | 3-butyl-6-methylheptan-2-ol | yield: 74.5% | C(CCC)C(C(C)O)CCC(C)C | C12H26O
